US20010016659A1
Entry 91: 4-Chloropyridine-2-carbonyl chloride was reacted with dimethylarnine according to Method A2, Step 3b. The resulting 4-chloro-N,N-dimethyl-2-pyridinecarbox-aide was reacted with 4-aminophenol according to Method A2, Step 4 to give 4-(2-(N,N-dimethylcarbamoyl)-4-pyridyloxy)aniline. 4-Bromo-3-(trifluoromethyl)aniline was converted into 4-bromo-3-(trifluoromethyl)phenyl isocyanate according to Method B1. According to Method C1a, 4-bromo-3-(trifluoromethyl)phenyl isocyanate was reacted with 4-(2-(N,N-dimethylcarbamoyl)-4-pyridyloxy)aniline to afford the urea.

reactant | 4-Chloropyridine-2-carbonyl chloride | ClC1=CC(=NC=C1)C(=O)Cl | C6H3Cl2NO
reactant | dimethylarnine | CNC | C2H7N
reactant | 4-aminophenol | NC1=CC=C(C=C1)O | C6H7NO
product | 4-(2-(N,N-dimethylcarbamoyl)-4-pyridyloxy)aniline | CN(C(=O)C1=NC=CC(=C1)OC1=CC=C(N)C=C1)C | C14H15N3O2
